US09079866B2
5-[2′-(Methylsulfonyl)biphenyl-4-yl]pyrazin-2-amine
5-(4-Bromophenyl)pyrazin-2-amine (51 mg, 0.20 mmol), (2-(methylsulfonyl)phenyl) boronic acid (61 mg, 0.31 mmol), K2CO3 (85 mg, 0.61 mmol) and Pd(dppf)Cl2.CH2Cl2 (15 mg, 0.020 mmol) were weighed into a sealable vial containing a stir-bar. The vial was sealed and evacuated before backfilling with argon and adding deoxygenated DMSO (0.8 mL). The vial was heated at 70° Celsius for 3 hours by which point the starting material had been consumed. The vial was cooler to rt, diluted with MeOH (1 mL), filtered with a syringe filter, and the filtrate subjected to HPLC purification to provide the title compound. MS (ESI): mass calcd. for C17H15N3O2S, 325.39; m/z found, 326.1 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.32 (dd, J=8.1, 1.4, 2H), 8.26 (dd, J=8.0, 1.4, 1H), 8.00-7.90 (m, 2H), 7.74-7.64 (m, 1H), 7.64-7.56 (m, 3H), 7.41 (dd, J=7.5, 1.4, 1H), 2.70 (s, 3H).

reactant | 5-(4-Bromophenyl)pyrazin-2-amine | 0.20 mmol, 51 mg | BrC1=CC=C(C=C1)C=1N=CC(=NC1)N | C10H8BrN3
reactant | (2-(methylsulfonyl)phenyl) boronic acid | 0.31 mmol, 61 mg | CS(=O)(=O)C1=C(C=CC=C1)B(O)O | C7H9BO4S
reactant | K2CO3 | 0.61 mmol, 85 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | CH2Cl2 | 0.020 mmol, 15 mg | C(Cl)Cl | CH2Cl2
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-[2′-(Methylsulfonyl)biphenyl-4-yl]pyrazin-2-amine | CS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)C=1N=CC(=NC1)N | C17H15N3O2S
